US05602149
7.2. 2-(diacetylamino)-3-cyclopentylbenzenesulphonyl chloride
A solution of 1.55 g (3.6 mmol) of 2-(diacetylamino)-3-cyclopentylbenzenesulphonic acid and 1.12 g (5.4 mmol) of phosphorus pentachloride in 10 ml of dichloromethane is heated at the reflux temperature for 2.5 hours, and the reaction medium is then concentrated under reduced pressure. The residue thus obtained is purified by chromatography on a column of florisil™, eluting with dichloromethane.

reactant | 2-(diacetylamino)-3-cyclopentylbenzenesulphonic acid | 3.6 mmol, 1.55 g | C(C)(=O)N(C1=C(C=CC=C1C1CCCC1)S(=O)(=O)O)C(C)=O | C15H19NO5S
reactant | phosphorus pentachloride | 5.4 mmol, 1.12 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(diacetylamino)-3-cyclopentylbenzenesulphonyl chloride | C(C)(=O)N(C1=C(C=CC=C1C1CCCC1)S(=O)(=O)Cl)C(C)=O | C15H18ClNO4S
